US08137821B2
After a 100 mL three-neck flask equipped with a magnetic stirrer, a reflux condenser, a thermometer and a dropping funnel was replaced with Ar, 5 mL of DMF and NaH (0.88 g, 60 mass % article, 22.0 mmol) were placed therein and the temperature of the mixture was cooled to 0° C. or lower in an ice bath, followed by stirring of the mixture. 5-Fluoro-8-quinolinol (3.42 g, 21.0 mmol) dissolved in 30.0 mL of DMF was added dropwise to this over 1 hour. After the mixture was stirred at the same temperature for 30 minutes, allyl bromide (2.54 g, 21.0 mmol) was added dropwise thereto. Further, the mixture was stirred at the same temperature for 30 minutes, and then the internal temperature was slowly raised to 150° C. and the mixture was heated and stirred for 2 hours. This was cooled to room temperature, and then the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. Then, ethyl acetate was removed under reduced pressure and the resulting crude reaction product was purified by column chromatography (Hexane/AcOEt=100/0→1/1) using silica gel, followed by drying under reduced pressure to give 4.10 g of 7-allyl-5-fluoro-8-quinolinol as a white solid (yield: 96.0%).

reactant | NaH | 22.0 mmol, 0.88 g | [H-].[Na+]
reactant | 5-Fluoro-8-quinolinol | 21.0 mmol, 3.42 g | FC1=C2C=CC=NC2=C(C=C1)O | C9H6FNO
reactant | allyl bromide | 21.0 mmol, 2.54 g | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | 30.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-allyl-5-fluoro-8-quinolinol | 4.10 g, yield: 96.0% | C(C=C)C1=CC(=C2C=CC=NC2=C1O)F | C12H10FNO
